US09029374B2
Sodium hydroxide (0.217 mL, 0.43 mmol) was added to a stirred solution of methyl 8-(1-(3-chloro-2-fluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylate (200 mg, 0.43 mmol) dissolved in MeOH (2 mL). The resulting solution was stirred at room temperature for 16 hrs. THF was added and the resulting solution was stirred at 50° C. for 8 hrs. The pH was adjusted to 3 with HCl 2N, the solvent was removed under vacuum and the residue diluted with H2O. The solid was collected by filtration, washed with water and dried to give 8-(1-(3-chloro-2-fluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid (171 mg, 88%) as a white solid. Mass Spectrum: M+H+ 447.

reactant | Sodium hydroxide | 0.43 mmol, 0.217 mL | [OH-].[Na+]
reactant | methyl 8-(1-(3-chloro-2-fluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylate | 0.43 mmol, 200 mg | ClC=1C(=C(C=CC1)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)OC)F | C23H22ClFN2O5
reactant | THF | C1CCOC1 | C4H8O
reactant | HCl | 2N | Cl | ClH
solvent | MeOH | 2 mL | CO | CH4O
product | 8-(1-(3-chloro-2-fluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid | 171 mg, 88% | ClC=1C(=C(C=CC1)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O)F | C22H20ClFN2O5
